US06071927
5-Benzyloxy-2-isopropoxybenzeneamine
Titanium trichloride (10% solution in 20-30% hydrochloric acid, 50 mL) was added to a solution of 5-benzyloxy-2-isopropoxynitrobenzene (Description 108, 2.78 g, 9.7 mmol) in acetic acid (50 mL) and the mixture was stirred at room temperature for 18 h. The mixture was poured into ice-cooled aqueous sodium hydroxide (4M, 400 mL) and the mixture was extracted with dichloromethane (8×100 mL). The combined organic fractions were washed with saturated aqueous sodium hydrogen carbonate (2×200 mL), dried MgSO4) and the solvent was evaporated under reduced pressure to give the title compound as a dark oil (1.74 g, 71%). 1H NMR (360 MHz, CDCl3) δ 7.42-7.25 (5H, m), 6.71 (1H, d, J 8.7 Hz), 6.41 (1H, d, J 2.9 Hz), 6.30 (1H, dd, J 8.7, 2.9 Hz), 4.97 (2H, s), 4.38 (1H, hept, J 6.0 Hz), 3.6 (2H, br s), and 1.32 (6H, d, d 6.0 Hz).

reactant | 5-benzyloxy-2-isopropoxynitrobenzene | 9.7 mmol, 2.78 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)[N+](=O)[O-])OC(C)C | C16H17NO4
reactant | sodium hydroxide | 4M, 400 mL | [OH-].[Na+]
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
catalyst | Titanium trichloride | 50 mL | [Cl-].[Cl-].[Cl-].[Ti+3]
product | 5-Benzyloxy-2-isopropoxybenzeneamine | 1.74 g, 71% | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)N)OC(C)C | C16H19NO2
